US08314098B2
Synthesis of N-(2-chloro-benzylidene)-N′-(7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (Compound 25)
There was dissolved, in ethanol (2 mL), trifluoroacetic acid salt of (7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (30.3 mg, 0.0563 mM), then 2-chloro-benzaldehyde (6.3 μL, 0.056 mM) was added to the solution and the mixture was stirred at room temperature for one hour. This reaction liquid was filtered and the resulting solid was purified by the NH-silica gel column chromatography (methylene chloride) to thus give the title compound (4.3 mg, yield: 18%).

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | (7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 0.0563 mM, 30.3 mg | N1(CCOCC1)C1=CC(=NC=2N1N=C(C2)C2=CC=CC=C2)NN | C16H18N6O
reactant | 2-chloro-benzaldehyde | 0.056 mM, 6.3 μL | ClC1=C(C=O)C=CC=C1 | C7H5ClO
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-(2-chloro-benzylidene)-N′-(7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 4.3 mg, yield: 18% | ClC1=C(C=NNC2=NC=3N(C(=C2)N2CCOCC2)N=C(C3)C3=CC=CC=C3)C=CC=C1 | C23H21ClN6O
